US08445679B2
ethyl 7-bromo-1-(4-methoxybenzyl)-3-(3-(naphthalen-1-yloxy)propyl)-1H-indole-2-carboxylate
To a solution of ethyl 7-bromo-3-(3-(naphthalen-1-yloxy)propyl)-1H-indole-2-carboxylate (2.39 g, prepared in a similar manner as described herein) in N, N-dimethylamide (20 mL) was added 1-(chloromethyl)-4-methoxybenzene (1.0 g) and Cs2CO3 (5.16 g). The mixture was stirred overnight at room temperature. The mixture was diluted with ether (300 mL) and water (200 mL). The aqueous layer was extracted with ether. The combined extracts were washed with water (×3), brine and dried over Na2SO4. Concentration gave Example 581A.

reactant | ethyl 7-bromo-3-(3-(naphthalen-1-yloxy)propyl)-1H-indole-2-carboxylate | BrC=1C=CC=C2C(=C(NC12)C(=O)OCC)CCCOC1=CC=CC2=CC=CC=C12 | C24H22BrNO3
reactant | 1-(chloromethyl)-4-methoxybenzene | 1.0 g | ClCC1=CC=C(C=C1)OC | C8H9ClO
reactant | Cs2CO3 | 5.16 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | N, N-dimethylamide | 20 mL | C[N-]C
solvent | ether | 300 mL | CCOCC | C4H10O
solvent | water | 200 mL | O | H2O
product | ethyl 7-bromo-1-(4-methoxybenzyl)-3-(3-(naphthalen-1-yloxy)propyl)-1H-indole-2-carboxylate | BrC=1C=CC=C2C(=C(N(C12)CC1=CC=C(C=C1)OC)C(=O)OCC)CCCOC1=CC=CC2=CC=CC=C12 | C32H30BrNO4
